US05593984
Preparation of 8-cyanopyrrolo[1,2-a]pyrazine
2 g of 8-bromopyrrolo[1,2-a]pyrazine prepared in Preparation Example 7 was added to a mixture of 2 g of copper(I) cyanide dissolved in 20 ml of N-methylpyrrolidone at 160° C. The reaction mixture was stirred for 10 minutes and cooled to room temperature. The reaction mixture was poured into 100 ml of distilled water, extracted with ethyl acetate (50ml×3), and then concentrated to dryness to obtain 1.2 g of yellowish brown title compound.

reactant | 8-bromopyrrolo[1,2-a]pyrazine | 2 g | BrC=1C=CN2C1C=NC=C2 | C7H5BrN2
reactant | copper(I) cyanide | 2 g | [Cu]C#N
reactant | water | 100 ml | O | H2O
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 8-cyanopyrrolo[1,2-a]pyrazine | 1.2 g | C(#N)C=1C=CN2C1C=NC=C2 | C8H5N3
